US08138187B2
5-Cyano-2-oxo-5-phenylcyclohexanecarboxylic acid methyl ester
4-Cyano-4-phenylheptanedioic acid dimethyl ester (14.45 g, 0.05 mol) was dissolved in dry tetrahydrofuran (350 ml). Sodium tert-butylate (9.6 g, 0.1 mol) was then added in portions. During this addition the reaction mixture became orange in colour. Thereafter, the mixture was boiled under reflux for 5 h. During the boiling a beige-colouring, slurry-like suspension formed. The reaction mixture was cooled to room temperature overnight. 2.5 N glacial acetic acid (170 ml) was slowly added dropwise to the reaction mixture, while cooling with ice. Toluene (100 ml) was then added to the mixture. The organic phase was separated off and washed with saturated sodium bicarbonate solution (3×70 ml), water (3×50 ml) and sodium chloride solution (1×70 ml). After drying with Na2SO4, the solvent was distilled off on a rotary evaporator and the residue was recrystallized from methanol. It was possible to obtain the desired product in a yield of 10.7 g (83%) as a yellow solid with a melting point of 75-80° C.

reactant | 4-Cyano-4-phenylheptanedioic acid dimethyl ester | 0.05 mol, 14.45 g | COC(CCC(CCC(=O)OC)(C1=CC=CC=C1)C#N)=O | C16H19NO4
reactant | acetic acid | 2.5 N, 170 ml | C(C)(=O)O | C2H4O2
reactant | Toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
solvent | tetrahydrofuran | 350 ml | O1CCCC1 | C4H8O
product | 5-Cyano-2-oxo-5-phenylcyclohexanecarboxylic acid methyl ester | COC(=O)C1C(CCC(C1)(C1=CC=CC=C1)C#N)=O | C15H15NO3
